US08859591B2
To a −10° C. solution of 6-chloronicotinaldehyde (553 mg, 3.91 mmol) in 3.5 mL THF was added n-propylmagnesium bromide (2.34 mL of a 2.0 M solution in THF, 4.69 mmol). The solution was stirred at −10° C. for 10 min, and was then allowed to warm to room temperature. The reaction mixture was quenched by addition of saturated aqueous ammonium chloride. The mixture was extracted with ethyl acetate. The organic layer was concentrated. The crude residue was purified by silica gel chromatography to give 1-(6-chloropyridin-3-yl)butan-1-ol (400 mg) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 8.24-8.31 (m, 1H), 7.61-7.67 (m, 1H), 7.25-7.30 (m, 1H), 4.68-4.74 (m, 1H), 2.05-2.26 (br s, 1H), 1.69-1.82 (m, 1H), 1.57-1.68 (m, 1H), 1.19-1.49 (m, 2H), 0.91 (t, J=7.43 Hz, 3H).

reactant | 6-chloronicotinaldehyde | 3.91 mmol, 553 mg | ClC1=NC=C(C=O)C=C1 | C6H4ClNO
reactant | n-propylmagnesium bromide | C(CC)[Mg]Br
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | 1-(6-chloropyridin-3-yl)butan-1-ol | 400 mg | ClC1=CC=C(C=N1)C(CCC)O | C9H12ClNO
